US08614328B2
A mixture of 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid (1.6 g, 5.1 mmol), alpha-amino-glutarimide hydrochloride (0.88 g, 5.4 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(5-chloro-thiophen-2-ylmethoxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (0.76 g, 36% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min. 240 nm, 60/40 CH3CN/0.1% H3PO4, 2.63 min (99.3%); mp, 217-219° C.; 1H NMR (DMSO-d6) δ 2.01-2.07 (m, 1H, CHH), 2.54-2.57 (m, 2H, CH2), 2.62-2.95 (m, 1H, CHH), 5.10 (dd, J=6.12 Hz, 1H, CH), 5.50 (s, 2H, CH2), 7.07-7.87 (m, 5H, Ar), 11.11 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.93, 30.90, 48.75, 65.38, 115.94, 116.80, 120.44, 126.55, 127.83, 129.09, 133.31, 136.93, 137.54, 154.76, 165.14, 166.68, 169.77, 169.86, 172.73. Anal Calcd For C18H13N2O5SCl: C, 53.41; H, 3.24; N, 6.92; S, 7.92%; Cl, 8.76. Found: C, 53.39; H, 2.95; N, 6.80; S, 7.62%; Cl, 9.01.

reactant | 3-(5-chloro-thiophen-2-ylmethoxy)-phthalic acid | 5.1 mmol, 1.6 g | ClC1=CC=C(S1)COC1=C(C(C(=O)O)=CC=C1)C(=O)O | C13H9ClO5S
reactant | alpha-amino-glutarimide hydrochloride | 5.4 mmol, 0.88 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(5-chloro-thiophen-2-ylmethoxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 0.76 g, 36% yield | ClC1=CC=C(S1)COC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C18H13ClN2O5S
